US07968573B2
To a solution of 3.1 g of 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carbonyl chloride in 100 ml of acetonitrile, 1.9 g of 2-amino-5-chloro-3-methylbenzoic acid was added. The mixture was stirred at room temperature for 10 minutes and then, 1.0 g of triethylamine was added thereto. The mixture was stirred at room temperature for 20 minutes and then, 2.0 g of triethylamine was further added thereto. After the mixture was stirred at room temperature for 20 minutes, 1.2 g of methanesulfonyl chloride was added and the mixture was stirred at room temperature for 3 hours. After the reaction mixture was concentrated under reduced pressure, ethyl acetate and water were poured into the residue to separate layers. The organic layer was washed with water, dried over sodium sulfate, and concentrated under reduced pressured. The resulting residue was subjected to silica gel column chromatography to obtain 4.2 g of 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one of the formula:

reactant | 1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazole-5-carbonyl chloride | 3.1 g | ClC=1C(=NC=CC1)N1N=C(C=C1C(=O)Cl)C(F)(F)F | C10H4Cl2F3N3O
reactant | 2-amino-5-chloro-3-methylbenzoic acid | 1.9 g | NC1=C(C(=O)O)C=C(C=C1C)Cl | C8H8ClNO2
reactant | triethylamine | 1.0 g | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 2.0 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.2 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 6-chloro-2-[1-(3-chloro-2-pyridinyl)-3-trifluoromethyl-1H-pyrazol-5-yl]-8-methyl-4H-3,1-benzoxazine-4-one | 4.2 g | ClC=1C=C(C2=C(C(OC(=N2)C2=CC(=NN2C2=NC=CC=C2Cl)C(F)(F)F)=O)C1)C | C18H9Cl2F3N4O2
